US06756366B1
i)—A solution of (7α,17β)-17-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3-methoxyestra-1,3,5(10),8-tetraene-7-methanol [Kuenzer, H. et al, Tetrahedron Lett. 32, 743 (1991); 7.3 g] in dry tetrahydrofuran (100 ml) was added to liquid ammonia (400 ml), cooled at −40° C. Lithium granulate (3.58 g) was added and the reaction mixture was stirred at reflux temperature for 1 h. Ethanol (22.1 ml) was added carefully and the mixture was stirred for 30 min. Solid ammonium chloride was added and the ammonia was allowed to evaporate. Water was added and the product was extracted into ethyl acetate. The combined organic phases were washed with water and brine, dried over magnesium sulfate and concentrated under reduced pressure, to give (7α,17β)-17-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3-methoxyestra-2,5(10)-diene-7-methanol (7.22 g). The product was used in the following step without further purification.

reactant | (7α,17β)-17-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3-methoxyestra-1,3,5(10),8-tetraene-7-methanol | 7.3 g | CC(C)(C)[Si](O[C@@H]1[C@]2(C)[C@@H](CC1)C=1[C@@H](CC=3C=C(C=CC3C1CC2)OC)CO)(C)C | C26H40O3Si
reactant | ammonia | 400 ml | N | H3N
reactant | Lithium | 3.58 g | [Li] | Li
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | Ethanol | 22.1 ml | C(C)O | C2H6O
product | (7α,17β)-17-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-3-methoxyestra-2,5(10)-diene-7-methanol | 7.22 g | CC(C)(C)[Si](O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC=3CC(=CCC3[C@H]1CC2)OC)CO)(C)C | C26H44O3Si
